US05268377
Ethyl 2-ethyl-3-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]-pyridine-4-carboxylate (1.94 g), monoethyl malonate (0.74 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.80 g), and triethylamine (1.40 g) are dissolved in dichloromethane (20 ml). The mixture is stirred overnight at room temperature. The reaction mixture is washed with water, dried over sodium sulfate, and then evaporated to remove the solvent. The residue is dissolved in ethanol (30 ml) and thereto is added fumaric acid (2.00 g). The mixture is refluxed for three hours and evaporated to remove the solvent. The resulting residue is treated with a saturated sodium hydrogen carbonate solution and extracted with chloroform. The organic layer is dried and evaporated to remove the solvent. The resulting residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give ethyl 2-ethyl-3-{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl-5-ethoxycarbonylacetyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (1.07 g) as foam.

reactant | Ethyl 2-ethyl-3-{2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl}methyl-4,5,6,7-tetrahydroimidazo[4,5-c]-pyridine-4-carboxylate | 1.94 g | C(C)C1=NC2=C(C(NCC2)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H41N7O2
reactant | monoethyl malonate | 0.74 g | C(CC(=O)[O-])(=O)OCC
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.80 g | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 1.40 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl 2-ethyl-3-{2'-(1H-tetrazol-5-yl)biphenyl-4-yl}methyl-5-ethoxycarbonylacetyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 1.07 g | C(C)C1=NC2=C(C(N(CC2)C(CC(=O)OCC)=O)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C30H33N7O5
